US07632531B2
N,N-diisopropyl-3-methyl-2E-hexenamide
3-Methyl-2E-hexenoic acid 1 eq, ethyl chloroformate 1.5 eq, triethylamine 1.6 eq, diisopropylamine 3.0 eq, quench with 10% hydrogen chloride solution, yield=34%.

reactant | 3-Methyl-2E-hexenoic acid | 1 eq | C\C(=C/C(=O)O)\CCC | C7H12O2
reactant | ethyl chloroformate | 1.5 eq | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.6 eq | C(C)N(CC)CC | C6H15N
reactant | diisopropylamine | 3.0 eq | C(C)(C)NC(C)C | C6H15N
reactant | hydrogen chloride | Cl | ClH
product | N,N-diisopropyl-3-methyl-2E-hexenamide | yield=34% | C(C)(C)N(C(\C=C(\CCC)/C)=O)C(C)C | C13H25NO
